checks.cir test error handling.
 
*** analysis type ***
.tran .01us 10us
v1 1 0 DC 1.0
v2 2 0 DC 0.0

.model d_osc1 d_osc (cntl_array=[-1.0 0.0 1.0 2.0] 
+                    freq_array=[1.0e6 1.0e6 4.0e6 4.0e6]
+                    rise_delay=1.0e-6 fall_delay=2.0e-6)

a1 1 clk1 d_osc1 
a2 2 clk2 d_osc1 

** Too few outputs, 4 required
ap0 null clk1 null [q2 q3 q4] proc0
.model proc0 d_process (process_file="graycode" process_params=["none"])

ap1 [clk2] clk1 null [o1 o2 o3 o4] proc1
.model proc1 d_process (process_file="prog1in4out" process_params=["opt1", "qwerty"])

ap2 [o1 o2 o3 o4] clk1 null [zeros] proc2
** Non existent process_file or missing fifos
** Unsupported fifo on Windows VisualC
.model proc2 d_process (process_file="badprog4in1out|" process_params=["abc", "99"])

ap3 [q1 q2 q3 q4] clk1 null [qzeros] proc3
** Non existent process_file
.model proc3 d_process (process_file="prog4in1outxxx")

an1 [o1 ~o2 o3] reseto dand1
.model dand1 d_and(inertial_delay=true rise_delay=1ns fall_delay=50ns)

ap4 [clk2] clk1 reseto [b1 b2 b3 b4] proc4
** Empty process_file name
.model proc4 d_process (process_file="")

.control
run
edisplay
quit
.endc
.end

